** sch_path: /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab3/current_mirror.sch
**.subckt current_mirror
Vdd v_dd GND 1.5
Ibias v_dd v_gs 20u
Vout1 out1 GND 0.6
Vout2 out2 GND 0.6
Vout3 out3 GND 0.6
.save v(out1)
.save v(out2)
.save v(out3)
.save v(v_gs)
Viout1 out1 net1 0
.save i(viout1)
Viout2 out2 net2 0
.save i(viout2)
Viout3 out3 net3 0
.save i(viout3)
XM1 v_gs v_gs GND GND sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM2 net1 v_gs GND GND sg13_lv_nmos w=1u l=0.13u ng=1 m=1
XM3 net2 v_gs GND GND sg13_lv_nmos w=2u l=0.13u ng=1 m=1
XM4 net3 v_gs GND GND sg13_lv_nmos w=4u l=0.13u ng=1 m=1
**** begin user architecture code


.temp 27
.control
save all

op
write current_mirror.raw
dc Vout1 0 1.5 10m
plot i(viout1) vs v(out1)
dc Vout2 0 1.5 10m
plot i(viout2) vs v(out2)
dc Vout3 0 1.5 10m
plot i(viout3) vs v(out3)

.endc



.lib cornerMOSlv.lib mos_tt

**** end user architecture code
**.ends
.GLOBAL GND
.end
