** sch_path: /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab1/dc_lv_pmos.sch
**.subckt dc_lv_pmos
Vgs net1 GND -0.75
Vds net3 GND -1.5
XM1 net2 net1 GND GND sg13_lv_pmos w=3.0u l=0.45u ng=1 m=1
Vd net3 net2 0
.save i(vd)
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt



.options savecurrents
.param temp=27
.control
save all
op
write dc_lv_pmos.raw
set appendwrite
dc Vds 0 -1.2 -0.01 Vgs -0.35 -1.1 -0.05
write dc_lv_pmos.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
