** sch_path: /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab2/untitled.sch
**.subckt untitled
V1 VSS GND 0
V2 VDD VSS 1.5
V3 Vin VSS 1.5
C1 vout VSS 10p m=1
x1 VDD Vin vout VSS inverter22
**** begin user architecture code
 .lib cornerMOSlv.lib mos_tt



.dc V3 0 1.5 0.01
.save all


**** end user architecture code
**.ends

* expanding   symbol:  /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab2/inverter22.sym # of pins=4
** sym_path: /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab2/inverter22.sym
** sch_path: /home/fcastellanos/Documents/SEED_Bootcamp_ihp/Modulo_Analogico/Lab2/inverter22.sch
.subckt inverter22 VDD vin Vout VSS
*.ipin vin
*.iopin Vout
*.iopin VDD
*.iopin VSS
XM1 Vout vin VSS VSS sg13_lv_nmos w=1u l=1u ng=1 m=1
XM2 Vout vin VDD VDD sg13_lv_pmos w=3u l=1u ng=1 m=1 rfmode=1
.ends

.GLOBAL GND
.end
